US07223879B2
4-(4-Butyl-phenylamino)-benzoic acid
An oven-dried resealable Schlenk flask was evacuated and backfilled with argon. The flask was charged with Pd2 dba3 (9.2 mg, 0.01 mmol, 2 mol % Pd), Ligand 1 (19 mg, 0.04 mmol, 4 mol %), pulverized KOH (168 mg, 3.0 mmol), and 4-amino-benzoic acid (165 mg, 1.2 mmol). The flask was evacuated and backfilled with argon (3×) and then capped with a rubber septum. To the flask was added t-BuOH (2.0 mL), 4-n-butylchlorobenzene (168 mg, 1.0 mmol) and t-BuOH (0.5 mL). The septum was replaced with a Teflon screwcap, the flask was sealed, and the mixture was heated to 100° C. with stirring until the starting aryl chloride was consumed by GC analysis (3 h). The reaction was cooled to room temperature, diluted with 5% aq. NaOH and extracted with Et2O. The aqueous layer was cooled to 0° C. and acidified with HCl (12.0 M) until pH ˜4. The aqueous layer was extracted with Et2O, dried over anh. MgSO4, filtered, and concentrated under reduced pressure to give crude product (248 mg). The product was purified by re-crystallizing in hot hexanes/chloroform to give faint brown platelets (209 mg, 78%).

reactant | KOH | 3.0 mmol, 168 mg | [OH-].[K+]
reactant | 4-amino-benzoic acid | 1.2 mmol, 165 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 4-n-butylchlorobenzene | 1.0 mmol, 168 mg | C(CCC)C1=CC=C(C=C1)Cl | C10H13Cl
catalyst | Pd2 dba3 | 0.01 mmol, 9.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1-Bis(4-methylphenyl)-3-methyl-2-butanone | 0.04 mmol, 19 mg | CC1=CC=C(C=C1)C(C(C(C)C)=O)C1=CC=C(C=C1)C | C19H22O
solvent | t-BuOH | 0.5 mL | CC(C)(C)O | C4H10O
solvent | t-BuOH | 2.0 mL | CC(C)(C)O | C4H10O
product | 4-(4-Butyl-phenylamino)-benzoic acid | 248 mg | C(CCC)C1=CC=C(C=C1)NC1=CC=C(C(=O)O)C=C1 | C17H19NO2
